US05241027
Aluminum chloride (80 g) was added to an ice bath-cooled mixture of 20.0 g of 5-nitrosalicylaldehyde and 200 ml of chloromethyl methyl ether, and the reaction was carried out at room temperature for 1 hour and then at 63° C. for 17 hours. The reaction mixture was cooled on an ice bath, and then 300 ml of ice water was added, and the resultant white precipitate was collected by filtration and recrystallized from hexane to give 18.6 g of 3-chloromethyl-5-nitrosalicylaldehyde (yield 72%).

reactant | Aluminum chloride | 80 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 5-nitrosalicylaldehyde | 20.0 g | [N+](=O)([O-])C1=CC=C(C(C=O)=C1)O | C7H5NO4
reactant | chloromethyl methyl ether | 200 ml | COCCl | C2H5ClO
product | 3-chloromethyl-5-nitrosalicylaldehyde | 18.6 g, yield 72% | ClCC1=C(C(C=O)=CC(=C1)[N+](=O)[O-])O | C8H6ClNO4
